US08071768B2
d. 4-[7-(3-Methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
A premixed solution of 1:1 TFA/CHCl3 (80 μL, 539 μmol TFA) was added to 4-[7-(3-ethanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (38.7 mg, 83.4 μmol), prepared as described in the previous step, and the tightly capped reaction was stirred under air at 100° C. (aluminum block) for 10 min. After cooling to rt, DIEA (117 μL, 709 μmol) was added dropwise, followed by CHCl3 (0.5 mL), and the resulting homogeneous solution was stirred at rt while (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester (32.9 mg, 104 μmol), as prepared in Example 1a, was added in one portion. The resulting homogeneous dark yellow solution was stirred at rt overnight, and then directly loaded onto a flash silica column (5:3 DCM/acetone eluent) to afford impure title compound. This material was taken up in EtOAc (2 mL) and washed with 1.0 M NaHCO3 (3×2 mL), 1.0 M NaH2PO4 (2×2 mL), and again 1.0 M NaHCO3 (2×2 mL). One contaminant was removed (apparently protonated DIEA), but another substantially remained (apparently nitrophenol), so the EtOAc layer was directly loaded onto a flash silica column (5:3 DCM/acetone eluent) to afford the title compound as a white foam (16.0 mg, 35%). 1H-NMR (400 MHz, CDCl3) δ 9.13 (s, 1H), 8.06 (d, 1H), 7.32 (d, 1H), 7.27-7.21 (m, 3H), 6.84 (m, 2H), 6.34 (br s, 1H), 4.69 (br t, 1H), 4.48 (heptet, 1H), 4.26 (m, 4H), 3.67 (tt, 1H), 3.42 (q, 2H), 3.13 (td, 2H), 2.97 (s, 3H), 2.21-2.05 (m, 4H), 2.00-1.91 (m, 2H), 1.32 (d, 6H). LC/MS (ESI): calcd mass 541.2, found 542.1 (MH)+. Anal. Calcd for C27H35N5O5S: C, 59.87; H, 6.51; N, 12.93. Found: C, 60.03; H, 6.51; N, 12.78.

reactant | TFA CHCl3 | 539 μmol, 80 μL | C(=O)(C(F)(F)F)O.C(Cl)(Cl)Cl
reactant | 4-[7-(3-ethanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 83.4 μmol, 38.7 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCNS(=O)(=O)CC | C23H34N4O5S
reactant | aluminum | [Al] | Al
reactant | DIEA | 709 μmol, 117 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester | 104 μmol, 32.9 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
solvent | DCM acetone | C(Cl)Cl.CC(=O)C
solvent | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[7-(3-Methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCNS(=O)(=O)C | C27H35N5O5S
